US04874775
N-(4-fluorophenyl)-N-(pyridin-3-ylmethyl) methanesulfonamide
A 2.3 g. portion of 3-(4-fluorophenylaminomethyl)pyridine was dissolved in 15 ml. of dichloromethane, and 2.1 g. of potassium carbonate and 1.2 ml. of methanesulfonyl chloride were added. The mixture was stirred under reflux for 2 days, and was then cooled and diluted with 20 ml. of aqueous sodium bicarbonate and 5 ml. of 2N sodium hydroxide. The organic phase was washed again with aqueous sodium bicarbonate, dried over magnesium sulfate and evaporated under vacuum. The residue was triturated with hot diethyl ether, and the solids were filtered and dried to obtain 2.6 g. of the desired product, m.p. 112°-113°.

reactant | 3-(4-fluorophenylaminomethyl)pyridine | FC1=CC=C(C=C1)NCC=1C=NC=CC1 | C12H11FN2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | methanesulfonyl chloride | CS(=O)(=O)Cl | CH3ClO2S
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | sodium hydroxide | 2N | [OH-].[Na+]
solvent | dichloromethane | ClCCl | CH2Cl2
product | N-(4-fluorophenyl)-N-(pyridin-3-ylmethyl) methanesulfonamide | FC1=CC=C(C=C1)N(S(=O)(=O)C)CC=1C=NC=CC1 | C13H13FN2O2S
